US04956376
Diethyl azodicarboxylate (0.96 g, 5.5 mmol) was added to a stirred solution of 5-(diphenylmethyl)-2H-tetrazole (1.00 g, 4.2 mmol), methyl [3-(2-hydroxyethyl)phenoxy]acetate (0.98 g, 4.6 mmol) and triphenylphosphine (1.44 g, 5.5 mmol) in dry THF (17 mL) cooled to 0° C. in an ice bath. The ice bath was removed and the mixture stirred at room temperature for 1 hour before the solvent was evaporated. The residue was chromatographed on a column of silica gel using a mixture of hexanes and ethyl acetate (3:1) to give methyl [3-[2-[5-(diphenylmethyl)-2H-tetrazol-2-yl]ethyl]phenoxy]acetate (1.06 g, 58%) as a colorless oil.

reactant | Diethyl azodicarboxylate | 5.5 mmol, 0.96 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 5-(diphenylmethyl)-2H-tetrazole | 4.2 mmol, 1.00 g | C1(=CC=CC=C1)C(C=1N=NNN1)C1=CC=CC=C1 | C14H12N4
reactant | methyl [3-(2-hydroxyethyl)phenoxy]acetate | 4.6 mmol, 0.98 g | OCCC=1C=C(OCC(=O)OC)C=CC1 | C11H14O4
reactant | triphenylphosphine | 5.5 mmol, 1.44 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 17 mL | C1CCOC1 | C4H8O
product | methyl [3-[2-[5-(diphenylmethyl)-2H-tetrazol-2-yl]ethyl]phenoxy]acetate | 1.06 g, 58% | C1(=CC=CC=C1)C(C=1N=NN(N1)CCC=1C=C(OCC(=O)OC)C=CC1)C1=CC=CC=C1 | C25H24N4O3
